US04409214
A solution of ethyl 3-amino-3-thioxopropionate (73.5 g) in diethyl ether (100 ml) was added to a solution of bromopiruvic acid (88.5 g) in diethyl ether (300 ml) and stirred for 15 hours at ambient temperature. The precipitates were collected by filtration and added to a mixture of water (500 ml) and diethyl ether (300 ml) and then adjusted to pH 7.5 with 20% aqueous sodium carbonate. The separated aqueous solution was adjusted to pH 1.0 with conc. hydrochloric acid and extracted with diethyl ether. The diethyl ether layer was dried over magnesium sulfate and evaporated. The residue was washed with diisopropyl ether to give ethyl 2-(4-carboxythiazol-2-yl)acetate (57.1 g).

reactant | ethyl 3-amino-3-thioxopropionate | 73.5 g | NC(CC(=O)OCC)=S | C5H9NO2S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | ethyl 2-(4-carboxythiazol-2-yl)acetate | 57.1 g | C(=O)(O)C=1N=C(SC1)CC(=O)OCC | C8H9NO4S
